US08383094B2
To a stirred suspension of (S)-benzyl pyrrolidine-2-carboxylate hydrochloride (5.63 g, 23.3 mmol), (R)-tetrahydrofuran-2-carboxylic acid (2.24 mL, 23.3 mmol), DIPEA (10.2 mL, 58.3 mmol), and HOBt (3.15 g, 23.3 mmol) in dry dichloromethane (100 mL) at 25° C. was added 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride (4.45 g, 23.3 mmol) in one portion. The mixture was stirred at 25° C. for 16 h then 1N HCl (50 mL) was added. The organic phase was separated, washed with saturated sodium bicarbonate solution, dried with Na2SO4, filtered and concentrated to afford intermediate (S)-benzyl 1-((R)-tetrahydrofuran-2-carbonyl)pyrrolidine-2-carboxylate as a yellow oil which was carried forward directly.

reactant | (S)-benzyl pyrrolidine-2-carboxylate hydrochloride | 23.3 mmol, 5.63 g | Cl.N1[C@@H](CCC1)C(=O)OCC1=CC=CC=C1
reactant | (R)-tetrahydrofuran-2-carboxylic acid | 23.3 mmol, 2.24 mL | O1[C@H](CCC1)C(=O)O | C5H8O3
reactant | DIPEA | 58.3 mmol, 10.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 23.3 mmol, 3.15 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride | 23.3 mmol, 4.45 g | Cl.C(C)N=C=NCCCN(C)C
reactant | HCl | 1N, 50 mL | Cl | ClH
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (S)-benzyl 1-((R)-tetrahydrofuran-2-carbonyl)pyrrolidine-2-carboxylate | O1[C@H](CCC1)C(=O)N1[C@@H](CCC1)C(=O)OCC1=CC=CC=C1 | C17H21NO4
